* PROBEC_PD8 : abstract conversion of sky130_fd_sc_hd__probec_p_8
* 55 abstract devices (width -> parallel min-width fingers)
.subckt PROBEC_PD8 A VGND VPWR X
XPROBEC_PD8B A VGND VGND VPWR VPWR X PROBEC_PD8B
.ends PROBEC_PD8

.subckt PROBEC_PD8B A VGND VNB VPB VPWR X
X0 X a_27_47# VGND VNB abnmos
X1 X a_27_47# VGND VNB abnmos
X2 X a_27_47# VGND VNB abnmos
X3 X a_27_47# VGND VNB abnmos
X4 X a_27_47# VPWR VPB abpmos
X5 X a_27_47# VPWR VPB abpmos
X6 X a_27_47# VPWR VPB abpmos
X7 X a_27_47# VPWR VPB abpmos
X8 X a_27_47# VPWR VPB abpmos
X9 X a_27_47# VPWR VPB abpmos
X10 X a_27_47# VPWR VPB abpmos
X11 X a_27_47# VPWR VPB abpmos
X12 X a_27_47# VPWR VPB abpmos
X13 X a_27_47# VGND VNB abnmos
X14 X a_27_47# VGND VNB abnmos
X15 X a_27_47# VPWR VPB abpmos
X16 X a_27_47# VPWR VPB abpmos
X17 X a_27_47# VPWR VPB abpmos
X18 X a_27_47# VGND VNB abnmos
X19 X a_27_47# VGND VNB abnmos
X20 X a_27_47# VPWR VPB abpmos
X21 X a_27_47# VPWR VPB abpmos
X22 X a_27_47# VPWR VPB abpmos
X23 X a_27_47# VPWR VPB abpmos
X24 X a_27_47# VPWR VPB abpmos
X25 X a_27_47# VPWR VPB abpmos
X26 X a_27_47# VGND VNB abnmos
X27 X a_27_47# VGND VNB abnmos
X28 X a_27_47# VGND VNB abnmos
X29 X a_27_47# VGND VNB abnmos
X30 X a_27_47# VGND VNB abnmos
X31 X a_27_47# VGND VNB abnmos
X32 a_27_47# A VGND VNB abnmos
X33 a_27_47# A VGND VNB abnmos
X34 a_27_47# A VGND VNB abnmos
X35 a_27_47# A VGND VNB abnmos
X36 a_27_47# A VPWR VPB abpmos
X37 a_27_47# A VPWR VPB abpmos
X38 a_27_47# A VPWR VPB abpmos
X39 a_27_47# A VGND VNB abnmos
X40 a_27_47# A VGND VNB abnmos
X41 X a_27_47# VPWR VPB abpmos
X42 X a_27_47# VPWR VPB abpmos
X43 X a_27_47# VPWR VPB abpmos
X44 a_27_47# A VPWR VPB abpmos
X45 a_27_47# A VPWR VPB abpmos
X46 a_27_47# A VPWR VPB abpmos
X47 a_27_47# A VPWR VPB abpmos
X48 a_27_47# A VPWR VPB abpmos
X49 a_27_47# A VPWR VPB abpmos
X50 X a_27_47# VGND VNB abnmos
X51 X a_27_47# VGND VNB abnmos
X52 X a_27_47# VPWR VPB abpmos
X53 X a_27_47# VPWR VPB abpmos
X54 X a_27_47# VPWR VPB abpmos
.ends PROBEC_PD8B
